US07727988B2
5-(2-methyl-4-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E28)
A solution of 1-(4-Chloro-butyl)-5-(2-methyl-pyridin-4-yl)-1H-pyrimidine-2,4-dione (Prep46, 74 mg, 0.25 mmol), (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane (Prep4, 57 mg, 0.25 mmol), and TEA (101 μl, 1 mmol) in absolute EtOH (3 mL) was refluxed for 48 hours. The reaction was then evaporated under vacuum and the residue was dissolved in 2N HClaq and washed with ethyl acetate. The aqueous phase was then basified with solid NaHCO3 and extracted with ethyl acetate. The organic phase was dried (Na2SO4) and evaporated; the residue was dissolved in DCM and treated with PS-isocyanate (250 mg) resin under stirring for 2 h. After filtration and evaporation of the solvent the crude was purified by LC-MS preparative and then loaded on SCX cartridge washing with MeOH and eluting with MeOH/NH3 95:5 to give 30 mg of the title compound as free base (33%, yield). 5-(2-methyl-4-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione was dissolved in dioxane and then treated with a solution of 4N HCl in dioxane (2 eq) to give the title compound as a pale yellow solid. (33 mg, 23.5%)

reactant | 5-(2-methyl-4-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione | CC1=NC=CC(=C1)C=1C(NC(N(C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C26H27F3N4O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 eq | O1CCOCC1 | C4H8O2
product | 5-(2-methyl-4-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | Cl.Cl.CC1=NC=CC(=C1)C=1C(NC(N(C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C26H27F3N4O2.2ClH/c1-17-12-18(8-9-30-17)22-15-33(24(35)31-23(22)34)11-3-2-10-32-14-21-13-25(21,16-32)19-4-6-20(7-5-19)26(27,28)29;;/h4-9,12,15,21H,2-3,10-11,13-14,16H2,1H3,(H,31,34,35);2*1H/t21-,25+;;/m0../s1
